US08084620B2
Step 3 A mixture of N-(3-bromo-2-methylphenyl)-2-(bromomethyl)-5-fluorobenzamide (2.54 g, 6.33 mmol) and sodium tert-butoxide (0.913 g, 9.50 mmol) in THF (80 mL) was stirred at rt for 30 min. The mixture was diluted with water and extracted with twice with DCM. The combined organic phases were washed with water, dried and concentrated. The residue was purified by column chromatography (eluting with hexane-EtOAc) to provide 2-(3-bromo-2-methylphenyl)-6-fluoroisoindolin-1-one as a white solid (1.18 g, 58%). 1H NMR (400 MHz, chloroform-d) δ 7.59-7.65 (2H, m), 7.45-7.50 (1H, m), 7.33 (1H, td, J=8.6, 2.5 Hz), 7.19-7.24 (1H, m), 7.15 (1H, t, J=7.9 Hz), 4.68 (2H, s), 2.31 (3H, s). Mass spectrum m/z 320, 322 (M+H)+.

reactant | N-(3-bromo-2-methylphenyl)-2-(bromomethyl)-5-fluorobenzamide | 6.33 mmol, 2.54 g | BrC=1C(=C(C=CC1)NC(C1=C(C=CC(=C1)F)CBr)=O)C | C15H12Br2FNO
reactant | sodium tert-butoxide | 9.50 mmol, 0.913 g | CC(C)([O-])C.[Na+]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-(3-bromo-2-methylphenyl)-6-fluoroisoindolin-1-one | 1.18 g, 58% | BrC=1C(=C(C=CC1)N1C(C2=CC(=CC=C2C1)F)=O)C | C15H11BrFNO
